US08431597B2
(2R,4R)-1-(tert-butoxycarbonyl)-4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-2-carboxylic acid
LiOH (1.23 g, 51.4 mmol) was added to a solution of (2R,4R)-1-tert-butyl 2-methyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-1,2-dicarboxylate (5.4 g, 12.8 mmol) in THF/MeOH/water (3:2:1) (60 mL) and the resulting solution was stirred at room temperature for 18 hours. 1M HCl solution was added to reaction solution to adjust pH to about 3, extracted with ethyl acetate (2×100 mL). The organic layers were dried over MgSO4 and concentrated to give the acid as a white solid 5.0 g (96%). LC-MS: 407.3; 405.3 (t=2.2 min).

reactant | LiOH | 51.4 mmol, 1.23 g | [Li+].[OH-]
reactant | (2R,4R)-1-tert-butyl 2-methyl 4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-1,2-dicarboxylate | 12.8 mmol, 5.4 g | O1C2=C(OCC1)C=C(C=C2)C(=O)N[C@H]2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C(=O)OC | C21H28N2O7
reactant | HCl | 1M | Cl | ClH
solvent | THF MeOH water | 60 mL | C1CCOC1.CO.O
product | (2R,4R)-1-(tert-butoxycarbonyl)-4-(2,3-dihydrobenzo[b][1,4]dioxine-6-carboxamido)piperidine-2-carboxylic acid | 5.0 g, 96% | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](CC1)NC(=O)C1=CC2=C(OCCO2)C=C1)C(=O)O | C20H26N2O7
